US04874747
50 g (250 mmoles) of 2-methyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl naphthalene are dissolved in 200 ml of acetic anhydride. The solution is cooled to 0° C. and there is slowly added a solution of 10.5 ml (250 mmoles) of nitric acid, 20 ml of acetic acid and 20 ml of acetic andydride, while maintaining the temperature between 0 and 5° C. The reaction mixture is then stirred for 1 hour at ambient temperature, poured into ice water and filtered. The resulting solid is washed with water. The solid is dissolved in methylene chloride, washed with water and then with a saturated solution of sodium bicarbonate, dried on MgSO4 and evaporated. 45.8 g (74%) of 2-methyl-3-nitro-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl naphthalene which melts at 143-144° C. are obtained.

reactant | 2-methyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl naphthalene | 250 mmoles, 50 g | CC1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C15H22
reactant | nitric acid | 250 mmoles, 10.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | acetic | 20 ml | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-methyl-3-nitro-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl naphthalene | 45.8 g, 74% | CC1=CC=2C(CCC(C2C=C1[N+](=O)[O-])(C)C)(C)C | C15H21NO2
